US04181740
Preparation of 1-(p-nitrobenzoyl)-5-methoxy-2-methyl-3-indolylacetic acid.
A solution of 4.9 g (12.8 mmol) of methyl-1-(p-nitrobenzoyl)-5-methoxy-2-methyl-3-indolylacetate in 40 ml of acetic acid containing 400 mg of p-toluene-sulfonic acid is refluxed for 20 hours and then concentrated in vacuo. p The gummy residue is extracted with ethyl acetate.

reactant | methyl-1-(p-nitrobenzoyl)-5-methoxy-2-methyl-3-indolylacetate | 12.8 mmol, 4.9 g | COC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C)=O | C20H18N2O6
reactant | p-toluene-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | 40 ml, 400 mg | C(C)(=O)O | C2H4O2
product | 1-(p-nitrobenzoyl)-5-methoxy-2-methyl-3-indolylacetic acid | [N+](=O)([O-])C1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C=C1 | C19H16N2O6
